US04250094
In the manner given in Example 1, 8,10-dimethyl-1-(bromomethyl)-6-[p-(methylthio)phenyl]-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine was reacted with dimethylamine in the presence of sodium iodide to give 1-[(dimethylamino)methyl]-8,10-dimethyl-6-[p-(methylthio)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 8,10-dimethyl-1-(bromomethyl)-6-[p-(methylthio)phenyl]-4H-s-triazolo[4,3-a]-[1,4]benzodiazepine | CC=1C=C(C2=C(C(=NCC=3N2C(=NN3)CBr)C3=CC=C(C=C3)SC)C1)C | C20H19BrN4S
reactant | dimethylamine | CNC | C2H7N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(dimethylamino)methyl]-8,10-dimethyl-6-[p-(methylthio)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | CN(C)CC1=NN=C2N1C1=C(C(=NC2)C2=CC=C(C=C2)SC)C=C(C=C1C)C | C22H25N5S
